US05620973
Using 3.45 g of 3-(3-chloro-1-oxopropyl)-7,11b,12,13-tetrahydro-5H-isoindolo[2,1-b][2]benzazepin-7-one, corresponding to Reference Example 5 Compound No. 1, and 1.4 g of 1-formylpiperazine, the procedure of Example 1 was otherwise repeated to provide about 3.6 g of 3-[3-(4-formyl-1-piperazinyl)-1-oxopropyl]-7,11b,12,13-tetrahydro-5H-isoindolo[2,1-b][2]benzazepin-7-one as a crude oil. This oil was not further purified but directly dissolved in 50 ml of methanol and the solution was refluxed with 50 ml of concentrated hydrochloric acid for 4 hours. After the methanol was distilled off, the residual aqueous solution was adjusted to pH about 10 with 10% aqueous sodium hydroxide solution and the product was extracted into dichloromethane. The extract was washed with water and the solvent was distilled off under reduced pressure to provide 3.1 g of the title compound as a powder melting at 207°-210° C. Elemental analysis for C24H27N3O2

reactant | 3-(3-chloro-1-oxopropyl)-7,11b,12,13-tetrahydro-5H-isoindolo[2,1-b][2]benzazepin-7-one | 3.45 g | ClCCC(=O)C1=CC2=C(CCC3N(C2)C(C2=CC=CC=C23)=O)C=C1 | C20H18ClNO2
reactant | 1-formylpiperazine | 1.4 g | C(=O)N1CCNCC1 | C5H10N2O
product | 3-[3-(4-formyl-1-piperazinyl)-1-oxopropyl]-7,11b,12,13-tetrahydro-5H-isoindolo[2,1-b][2]benzazepin-7-one | about 3.6 g | C(=O)N1CCN(CC1)CCC(=O)C1=CC2=C(CCC3N(C2)C(C2=CC=CC=C23)=O)C=C1 | C25H27N3O3
